Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C-:1]([N+:2](=[C:3]([O:4][H:10])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])[H:9],67.1310188128699
[C:1](=[C:2]=[O:3])([H:9])[H:10].[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])([O:7][H:17])[H:8]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],53.980236128711404
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[N:1](=[C:2](\[O:3][H:9])[C:5]1=[C:4]([H:10])[C:6]([H:11])([H:12])[N:7]1[H:13])\[H:8],76.9598550924606
[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9]>>[C:1](=[O:2])([H:7])[H:9].[C:3](=[O:4])([C:5]#[C:6][H:10])[H:8],72.1157087669201
[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:3]1=[O+:6][C:5]([H:15])([H:16])[C:4]1([H:13])[H:14].[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],72.8209318452205
[o:1]1[c:2]([H:6])[c:3]([H:7])[c:4]([H:8])[n:5]1>>[C:2](#[C:3][H:7])[H:6].[O-:1][N+:5]#[C:4][H:8],80.7668888806462
[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8]>>[N:1]([N:6]=[C:5]=[C:2]1[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8],100.42718146182399
[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:17].[O:5]=[C:6]([H:16])[H:18]>>[C:1]([C:2]([C:3]([C:4]([O:5][C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],32.24963099416459
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C-:2]1[C:3]([H:12])([H:13])[C:4]2([C:5]([H:15])=[O+:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10].[H:11][H:14],111.16825717344601
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[N:1]1=[C:2]([H:9])[C:3]([H:8])=[O+:4][C:5]([H:10])([H:11])[C:6]1=[N-:7],69.4825872371876
[C:1]([O+:7]=[C:6]([C:4](=[C:2]=[O:3])[O-:5])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],39.07714770323899
[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C@:6]1([H:15])[C:5]([H:13])([H:14])[C-:4]=[O+:7]1)([H:11])[H:12])([H:9])[H:10])[H:8],52.335363808284995
[O:1]=[C:2]([O:3][C:4]([C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([N+:6]#[C-:5])[H:7].[O:3]=[C:4]([H:8])[H:9],63.46038792184589
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:16])[C:3][C@@:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:6]1([H:14])[H:15])([H:7])([H:8])[H:9],94.9188786925721
[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([C:4]([C:3][H:10])([H:12])[H:13])[C:5]([H:11])([H:14])[O:6]1)([H:7])([H:8])[H:9],139.157152465116
[C:1]([H:8])([H:9])([H:10])[H:14].[C@@:2]1([C:3](=[O:4])[H:12])([H:11])/[C:5](=[N:7]/[H:13])[O:6]1>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],37.829516026105225
[N:1]#[C:2]/[C:3](=[C:4](/[C:5]([O:6][H:9])([H:10])[H:11])[H:8])[H:7]>>[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1,95.0066407509542
[O:1]([C:3]([C@:4]([C:2][H:8])([C:5](=[O:6])[H:12])[H:11])([H:9])[H:10])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],19.565573834910083
[C:1]([C:3]([O+:4]=[C:2]=[C:5]([O-:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([C:5](=[O:6])[N:7]([H:13])[H:14])[C:3]([H:11])([H:12])[O:4]1)([H:8])([H:9])[H:10],52.773431429957206
[O-:1][C+:2]([N:5]([C:3](=[C:4]([H:8])[H:9])[H:7])[H:10])[H:6]>>[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],93.5772558363945
[C:1]([C:2]1=[C:3]([H:11])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9].[H:10][H:12]>>[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9],86.13764647482
[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1](=[O+:2][C:3]([C@@:7]1([H:17])[C-:4]([H:12])[C:5]([H:13])([H:14])[C:6]1([H:15])[H:16])([H:10])[H:11])([H:8])[H:9],83.2354248012607
[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[H:9][H:12].[N:1]([C:2](=[O:3])/[C:4](=[C:5](\[O:6][H:13])[H:11])[H:10])([H:7])[H:8],95.2311586826196
[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([O:6][H:13])[n:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])[N:7]1/[C:5](=[N:4]/[H:12])[O:6][H:13])([H:8])([H:9])[H:10],89.70601640843729
[C:1]([N:2]([C:3]([C:6]#[N:7])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[C:4]([O:5][H:15])[H:14]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],12.466407403844592
